US04014899
The starting material is prepared as follows: To the mixture of 31.5 g of carbon tetrabromide and 65 ml of methylene chloride the solution of 50.0 g of triphenylphosphine in 175 ml of methylene chloride is added dropwise while stirring at 0°-5° under nitrogen. After 20 minutes the solution of 13.5 g of 4-benzyloxy-3,5-dimethoxybenzaldehyde in 50 ml of methylene chloride is added dropwise and the mixture stirred at room temperature for 2 hours. It is washed with 200 ml of water, dried and evaporated. The residue is extracted with hexane-diethyl ether (5:1), the extract evaporated, the residue chromatographed on silica gel, eluted with diethyl ether, the eluate evaporated and the residue recrystallized from hexane, to yield the β,β-dibromo-4-benzyloxy-3,5-dimethoxy-styrene melting at 76°-77°.

reactant | carbon tetrabromide | 31.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 50.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-benzyloxy-3,5-dimethoxybenzaldehyde | 13.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1OC)OC | C16H16O4
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | β,β-dibromo-4-benzyloxy-3,5-dimethoxy-styrene | BrC(=CC1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)OC)Br | C17H16Br2O3
